US04125729
4'-(α,α,α-Trifluoro-m-tolyloxy)acetophenone
A mixture of 32.4 g of α,α,α-trifluoro-m-cresol, 27.62 g of p-fluoroacetophenone, 55.2 g of potassium carbonate and 250 ml of N,N-dimethylacetamide is heated under Argon overnight with vigorous stirring at 150°-155° C. After cooling the mixture is added to 500 ml of water and extracted with benzene. The combined extracts are washed with two 100 ml portions of 5% NaOH, 100 ml of H2O, 100 ml of saturated brine, and dried over MgSO4. Evaporation of the solvent at reduced pressure affords a brown liquid which is distilled to give the product as a pale yellow oil (bp 122°-142° C at 0.2 mm).

reactant | α,α,α-trifluoro-m-cresol | 32.4 g | FC(C1=CC(=CC=C1)O)(F)F | C7H5F3O
reactant | p-fluoroacetophenone | 27.62 g | FC1=CC=C(C=C1)C(C)=O | C8H7FO
reactant | potassium carbonate | 55.2 g | C([O-])([O-])=O.[K+].[K+]
reactant | N,N-dimethylacetamide | 250 ml | CN(C(C)=O)C | C4H9NO
solvent | water | 500 ml | O | H2O
product | 4'-(α,α,α-Trifluoro-m-tolyloxy)acetophenone | FC(C1=CC(=CC=C1)OC1=CC=C(C=C1)C(C)=O)(F)F | C15H11F3O2
